US05068340
7(a) A solution of 9.25 g of (4RS)-2,2-dimethyl 1.3-dioxolane-4-methanol in 100 ml of tetrahydrofuran was added dropwise to a suspension of 3.36 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 300 ml of tetrahydrofuran at 20° to 24° C. over a period of 30 minutes. At the end of this time. 10.46 g of 2-methoxyethoxymethyl chloride in 50 ml of tetrahydrofuran were added dropwise to the mixture cooled on an ice bath. The reaction mixture was stirred at 0° to 2° C. for 3 hours, and then poured into water. It was then extracted twice with ethyl acetate. The combined extracts were washed with water, dried and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 200 g of silica gel. 12.80 g of (4RS)-2,2-dimethyl-4-(2-methoxyethoxy)methoxymethyl-1,3-dioxolane were obtained as a colorless oil from the fractions eluted with mixtures of ethyl acetate and hexane ranging from 1:5 to 1:4 by volume.

reactant | (4RS)-2,2-dimethyl 1.3-dioxolane-4-methanol | 9.25 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | 3.36 g | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 10.46 g | COCCOCCl | C4H9ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4RS)-2,2-dimethyl-4-(2-methoxyethoxy)methoxymethyl-1,3-dioxolane | 12.80 g | CC1(OCC(O1)COCOCCOC)C | C10H20O5
